US05587379
Under a nitrogen atmosphere, a solution of 17.0 grams (0.065 mole) of 3-(phenylmethoxy)phenyl bromide in 125 mL of tetrahydrofuran was stirred and cooled to -70° C. To this was added dropwise 28.0 mL (0.071 mole) of 2.5M n-butyllithium (in hexanes) during a 15 minute period. The reaction mixture temperature was maintained below -60° C. during the addition. Upon completion of addition, a solution of 11.5 grams (0.068 mole) of undecanaldehyde in 15 mL of tetrahydrofuran was added dropwise during a 5 minute period. Upon completion of addition, the reaction mixture was allowed to warm to 0° C. during a one hour period. The reaction mixture was again cooled to -60° C., and 100 mL of water was added. The reaction mixture was allowed to warm to ambient temperature, and then it was extracted with 200 mL of diethyl ether. The ether extract was washed with 50 mL of water, and then it was concentrated under reduced pressure to a residue. The residue was subjected to column chromatography on silica gel. Elution was accomplished using 9:1 petroleum ether and diethyl ether, and 7:3 petroleum ether and diethyl ether. The product-containing fractions were combined and concentrated under reduced pressure, yielding 20.5 grams of 1-[3-(phenylmethoxy)phenyl]undecanol. The NMR spectrum was consistent with the proposed structure.

reactant | 3-(phenylmethoxy)phenyl bromide | 0.065 mole, 17.0 grams | C1(=CC=CC=C1)COC=1C=C(C=CC1)Br | C13H11BrO
reactant | n-butyllithium | 0.071 mole, 2.5M, 28.0 mL | C(CCC)[Li]
reactant | undecanaldehyde | 0.068 mole, 11.5 grams | C(CCCCCCCCCC)=O | C11H22O
reactant | water | 100 mL | O | H2O
solvent | tetrahydrofuran | 125 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 1-[3-(phenylmethoxy)phenyl]undecanol | 20.5 grams | C1(=CC=CC=C1)COC=1C=C(C=CC1)C(CCCCCCCCCC)O | C24H34O2
